US08461181B2
(6) Hydroxybenzonitrile Herbicidal Compounds
bromoxynil and ioxynil.

reactant | bromoxynil | C=1C(=CC(=C(C1Br)O)Br)C#N | C7H3Br2NO
reactant | ioxynil | C=1C(=CC(=C(C1I)O)I)C#N | C7H3I2NO
product | Hydroxybenzonitrile | OC1=C(C#N)C=CC=C1 | C7H5NO
